US04735952
m-Chloroperbenzoic acid (0.77 g) was added to an ice-cooled solution of 4-[(2-pyridyl)thio]piperidine dihydrochloride (1.0 g) in water (20 ml) and the mixture was stirred at the same temperature for 7.5 hours. After additional m-chloroperbenzoic acid (0.07 g) and water (5 ml) were added, the mixture was stirred at the same temperature for 1 hour, adjusted to alkaline pH with sodium hydroxide solution, and extracted several times with chloroform. The extracts were combined, dried over magnesium sulfate, and concentrated in vacuo. The oily residue was dissolved in chloroform. The solution was treated with ethanolic hydrochloric acid and concentrated in vacuo. The crystalline residue was washed with isopropanol to give 4-[(2-pyridyl)sulfinyl]piperidine hydrochloride (0.70 g).

reactant | m-Chloroperbenzoic acid | 0.77 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-[(2-pyridyl)thio]piperidine dihydrochloride | 1.0 g | Cl.Cl.N1=C(C=CC=C1)SC1CCNCC1
reactant | m-chloroperbenzoic acid | 0.07 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 4-[(2-pyridyl)sulfinyl]piperidine hydrochloride | 0.70 g | Cl.N1=C(C=CC=C1)S(=O)C1CCNCC1 | InChI=1S/C10H14N2OS.ClH/c13-14(9-4-7-11-8-5-9)10-3-1-2-6-12-10;/h1-3,6,9,11H,4-5,7-8H2;1H
